US06897208B2
Dihydropyran (20.5 mL) as added dropwise to a solution of 2-acetylbenzoimidazole (32 g) and p-toluenesulfonic acid (2 g) in dichloromethane (280 mL) at reflux. The reaction mixture was stirred at this temperature for 24 hours, then cooled and the insoluble materials were filtered off. The filtrate was concentrated to give 2-acetyl-1-(tetrahydropyran-2-yl)-benzoimidazole as an amber oil (51.8 g). TLC: dichloromethane:methanol, 97:3) RF=0.80.

reactant | Dihydropyran | 20.5 mL | O1CCCC=C1 | C5H8O
reactant | 2-acetylbenzoimidazole | 32 g | C(C)(=O)C=1NC2=C(N1)C=CC=C2 | C9H8N2O
reactant | p-toluenesulfonic acid | 2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 280 mL | ClCCl | CH2Cl2
product | 2-acetyl-1-(tetrahydropyran-2-yl)-benzoimidazole | 51.8 g | C(C)(=O)C1=NC2=C(N1C1OCCCC1)C=CC=C2 | C14H16N2O2
